//**********************************************************
simulator lang=spectre insensitive=yes
//**********************************************************
//**********************************************************

model nfet bsimcmg type=n 
+ level=72  			lmin=1e-008          lmax=3e-008        
//**********************************************************
//                        general                          *
//**********************************************************
//========================flags==========================*
+ version=105.03        bulkmod=1            igcmod=1       	igbmod=1             
+ gidlmod=0             iimod=0		         geomod=1       	rdsmod=1             
+ rgatemod=0            rgeomod=1            shmod=0        	nqsmod=0             
+ coremod=0          	cgeomod=2            capmod=0       	tnom=300.15        
//=======================process=========================*
+ eot=8e-010          	eotbox=1.4e-007      tfin=1.2e-008		toxp=1.35e-009     
+ nbody=1e+023          phig=4.4061          epsrox=3.9         epsrsub=11.9          
+ easub=4.05            ni0sub=1.1e+016      bg0sub=1.12        nc0sub=2.86e+025     
+ nsd=3e+026         	ngate=0              nfin=1             d=4e-008        
+ nseg=5               	l=2e-008        
//=========================w/l===========================*
+ xl=0               	lint=1e-009         ll=0            	lln=1             
+ llc=0               	dlc=0               dlbin=0         	hfin=2.6e-008      
+ fech=1               	deltaw=0            deltawcv=0      	fechcv=1             
+ hepi=9.5e-009      
//=======================geometry========================*
+ tsili=9e-009          rhoc=1.5e-12        cratio=0.5         	deltaprsd=0             
+ sdterm=0              ldg=3e-009          epsrsp=3.9          tgate=9e-009        
+ tmask=0               asiliend=0          arsdend=0      		prsdend=0             
+ nsde=3e+025          	rgeoa=1             rgeob=0           	rgeoc=0             
+ rgeod=0               rgeoe=0             cgeoa=1           	cgeob=0             
+ cgeoc=0               cgeod=0             cgeoe=1             
//====================model_selector=====================*
//**********************************************************
//                           dc                            *
//**********************************************************
+ cit=1.3e-005      
//=========================vth===========================*
+ cdsc=0.018           	cdscd=0.007          dvt0=0.01        	dvt1=0.69          
+ phin=0.05           	eta0=0.5261          dsub=0.9           k1rsce=0             
+ lpe0=5e-009          	dvtshift=ndvtshift   qmfactor=0         qmtceniv=0             
+ qmtcencv=0          	etaqm=0.54           qm0=0.001143       pqm=0.66          
+ qm0acc=0.001          pqmacc=0.66          delvfbacc=0        u0=0.0448        
//=======================mobility========================*
+ etamob=2               up=0              	lpa=1               ua=0.3           
+ aua=0               	bua=1e-007          eu=1.8             	ud=0             
+ aud=0               	bud=5e-008          ucs=0               rdswmin=0             
//======================resistance=======================*
+ rdsw=100             	ardsw=0             brdsw=1e-007        prwg=0             
+ wr=1               	rswmin=0            rsw=0               arsw=0             
+ brsw=1e-007          	rdwmin=0            rdw=0               ardw=0             
+ brdw=1e-007          	rgfin=0.001         rgext=0             rshs=0             
+ vsat=90000         
//======================saturation=======================*
+ deltavsat=1           ksativ=0.8          avsat=0             avsat1=0             
+ bvsat=1e-007          bvsat1=1e-007       mexp=3              amexp=0             
+ bmexp=1               ptwg=0              aptwg=0             bptwg=1e-007        
//=========================rout==========================*
+ pclm=0.2             	pclmcv=0.013        apclm=0           	bpclm=1e-007        
+ pclmg=0              	pclmgcv=0           vasat=0.6        	vasatcv=0.2           
+ pdibl1=1.3            pdibl2=0.0002       drout=1.06        	pvag=1             
+ fpitch=4.2e-008      
//=====================self-heating======================*
+ rth0=0.01            	cth0=1e-005          wth0=0             
//**********************************************************
//                        leakage                          *
//**********************************************************
+ aigbinv=0.0111        
//=========================igb===========================*
+ bigbinv=0.03          cigbinv=0.006       eigbinv=1.1       	nigbinv=1.2             
+ aigbacc=0.0149        bigbacc=0.000949    cigbacc=0.075     	nigbacc=3             
+ aigc=0.0136        
//=========================igc===========================*
+ bigc=0.00171         	cigc=0.075          nigc=1             
//=======================igs/igd=========================*
+ dlcigs=0              dlcigd=0       		aigs=0.0136       	aigd=0.0136        
+ bigs=0.00171         	bigd=0.00171        cigs=0.075          cigd=0.075         
+ poxedge=1             agidl=5.729e-012    
//======================gidl/gisl========================*
+ agisl=5.729e-012      bgidl=3e+008        bgisl=3e+008        egidl=0.1           
+ egisl=0.1             alpha0=0             
//=========================isub==========================*
+ alpha1=0              alphaii=0           betaii0=0           betaii1=0             
+ betaii2=0.1           esatii=10000000     lii=5e-010          sii0=0.5           
+ sii1=0.1             	sii2=0              siid=0              beta0=30            
+ lintigen=0             
//===============generation/recombination================*
+ ntgen=1               aigen=0             bigen=0             
//**********************************************************
//                           rf                            *
//**********************************************************
+ xrcrg1=12            
//===================nonquasi-static=====================*
+ xrcrg2=1             
//**********************************************************
//                        junction                         *
//**********************************************************
//=======================current=========================*
+ jss=0.0001          	jsd=0.0001          jsws=0              jswgs=0             
+ njs=1               	njd=1               ijthsfwd=0.1        ijthdfwd=0.1           
+ ijthsrev=0.1          ijthdrev=0.1        bvs=10          	bvd=10            
+ xjbvs=1               xjbvd=1             cjs=0.0005        
//=====================capacitance=======================*
+ cjd=0.0005          	cjsws=5e-010         cjswgs=0           pbs=1             
+ pbd=1               	pbsws=1              mjs=0.5            mjd=0.5           
+ mjsws2=0.33           mjswd2=0.33          mjsws=0.33         sjs=0             
+ sjsws=0               sjswgs=0             mjs2=0.125         mjd2=0.125         
//**********************************************************
//                       capacitance                       *
//**********************************************************
//=====================capacitance=======================*
+ cgsp=0               	cgdp=0               cdsp=0             cfs=2.56e-011     
+ cfd=2.65e-011       	covs=2.5e-011        covd=2.5e-011      cgsl=0             
+ ckappas=0.6           cgbo=0               cgbl=0             
//**********************************************************
//                      temperature                        *
//**********************************************************
+tbgasub=0.000702      
//=======================process=========================*
+ tbgbsub=1108       	kt1=0             
//=========================vth===========================*
+ kt1l=0               	ute=0             
//=======================mobility========================*
+ utl=-0.0015         	ua1=0.001032       	 ud1=0            ucste=-0.00478      
+ at=-0.00156      
//=========================vsat==========================*
+ ptwgt=0.004           tmexp=0				prt=0.001         
//=======================resistor========================*
+ iit=-0.5          
//=========================isub==========================*
+ tii=0              	tgidl=-0.0003       
//=========================gidl==========================*
+ igt=2.5           
//=====================gatecurrent=======================*
//=======================junction========================*
+ tcj=0               	tcjsw=0             tcjswg=0             tpb=0             
+ tpbsw=0               tpbswg=0            xtis=3               xtid=3             
+ xtss=0.02            	xtssws=0.02         xtsswgs=0.02         tnjts=0             
+ tnjtssw=0             tnjtsswg=0             
//**********************************************************
//                          noise                          *
//**********************************************************
+ ef=1             
//=========================1/f===========================*
+ lintnoi=0            	em=41000000        noia=6.25e+039       noib=3.125e+024    
+ noic=87500000        	ntnoi=1             
//ends nfet

//inline subckt pfet (d g s x)
model pfet bsimcmg type=p
+ level=72  			lmin=1e-008          lmax=3e-008        
//**********************************************************
//                         general                         *
//**********************************************************
//========================flags==========================*
+ version=105.03        bulkmod=1             igcmod=1              igbmod=1             
+ gidlmod=0             iimod=0               geomod=1              rdsmod=1             
+ rgatemod=0          	rgeomod=1             shmod=0          		nqsmod=0             
+ coremod=0             cgeomod=2             capmod=0              tnom=300.15        
//=======================process=========================*
+ eot=8e-010          	eotbox=1.4e-007       tfin=1.2e-008        	toxp=1.35e-009   
+ nbody=1e+023          phig=4.7642           epsrox=3.9           	epsrsub=11.9          
+ easub=4.05            ni0sub=1.1e+016       bg0sub=1.12          	nc0sub=2.86e+025     
+ nsd=3e+026          	ngate=0               nfin=1               	d=4e-008        
+ nseg=5               	l=2e-008        
//=========================w/l===========================*
+ xl=0               	lint=1e-009           ll=0               	lln=1             
+ llc=0               	dlc=0                 dlbin=0              	hfin=2.6e-008      
+ fech=1               	deltaw=0              deltawcv=0           	fechcv=1             
+ hepi=9.5e-009      
//=======================geometry========================*
+ tsili=9e-009          rhoc=2e-012           cratio=0.5            deltaprsd=0             
+ sdterm=0              ldg=3e-009            epsrsp=3.9            tgate=9e-009        
+ tmask=0               asiliend=0            arsdend=0             prsdend=0             
+ nsde=3e+025          	rgeoa=1               rgeob=0               rgeoc=0             
+ rgeod=0               rgeoe=0               cgeoa=1               cgeob=0             
+ cgeoc=0               cgeod=0               cgeoe=1             
//====================model_selector=====================*
//**********************************************************
//                            dc                           *
//**********************************************************
+ cit=1.3e-005      
//=========================vth===========================*
+ cdsc=0.018           	cdscd=0.007           	dvt0=0.01           dvt1=0.69          
+ phin=0.05            	eta0=0.778            	dsub=0.9            k1rsce=0             
+ lpe0=5e-009          	dvtshift=pdvtshift    	qmfactor=0          qmtceniv=0             
+ qmtcencv=0            etaqm=0.54        		qm0=0.001143        pqm=0.66          
+ qm0acc=0.001          pqmacc=0.66         	delvfbacc=0         u0=0.03        
//=======================mobility========================*
+ etamob=2              up=0               		lpa=1               ua=0.3           
+ aua=0               	bua=1e-007          	eu=1.8              ud=0             
+ aud=0               	bud=5e-008          	ucs=0               rdswmin=0             
//======================resistance=======================*
+ rdsw=100             	ardsw=0               	brdsw=1e-007       	prwg=0             
+ wr=1               	rswmin=0               	rsw=0               arsw=0             
+ brsw=1e-007          	rdwmin=0               	rdw=0               ardw=0             
+ brdw=1e-007          	rgfin=0.001           	rgext=0             rshs=0             
+ vsat=88000         
//======================saturation=======================*
+ deltavsat=1           ksativ=0.8             	avsat=0             avsat1=0             
+ bvsat=1e-007          bvsat1=1e-007          	mexp=3              amexp=0             
+ bmexp=1               ptwg=0               	aptwg=0             bptwg=1e-007        
//=========================rout==========================*
+ pclm=0.2             	pclmcv=0.013           	apclm=0             bpclm=1e-007        
+ pclmg=0               pclmgcv=0              	vasat=0.6           vasatcv=0.2           
+ pdibl1=1.3            pdibl2=0.0002          	drout=1.06          pvag=1             
+ fpitch=4.2e-008      
//=====================self-heating======================*
+rth0=0.01            	cth0=1e-005          	wth0=0             
//**********************************************************
//                        leakage                          *
//**********************************************************
+ aigbinv=0.0111        
//=========================igb===========================*
+ bigbinv=0.03          cigbinv=0.006           eigbinv=1.1          nigbinv=1.2             
+ aigbacc=0.0149        bigbacc=0.000949        cigbacc=0.075        nigbacc=3             
+ aigc=0.0136        
//=========================igc===========================*
+ bigc=0.00171         	cigc=0.075           	nigc=1             
//=======================igs/igd=========================*
+ dlcigs=0              dlcigd=0                aigs=0.0136      	aigd=0.0136        
+ bigs=0.00171         	bigd=0.00171         	cigs=0.075          cigd=0.075         
+ poxedge=1             agidl=5.729e-012    
//======================gidl/gisl========================*
+ agisl=5.729e-012      bgidl=3e+008          	bgisl=3e+008      	egidl=0.1           
+ egisl=0.1             alpha0=0             
//=========================isub==========================*
+ alpha1=0              alphaii=0               betaii0=0           betaii1=0             
+ betaii2=0.1           esatii=10000000         lii=5e-010          sii0=0.5           
+ sii1=0.1             	sii2=0               	siid=0              beta0=30            
+ lintigen=0             
//===============generation/recombination================*
+ ntgen=1               aigen=0               bigen=0             
//**********************************************************
//                           rf                            *
//**********************************************************
+ xrcrg1=12            
//===================nonquasi-static=====================*
+ xrcrg2=1             
//**********************************************************
//                        junction                         *
//**********************************************************
//=======================current=========================*
+ jss=0.0001          	jsd=0.0001          	jsws=0             jswgs=0             
+ njs=1               	njd=1               	ijthsfwd=0.1       ijthdfwd=0.1           
+ ijthsrev=0.1          ijthdrev=0.1        	bvs=10             bvd=10            
+ xjbvs=1               xjbvd=1             	cjs=0.0005        
//=====================capacitance=======================*
+ cjd=0.0005          	cjsws=5e-010          	cjswgs=0            pbs=1             
+ pbd=1               	pbsws=1              	mjs=0.5        		mjd=0.5           
+ mjsws2=0.33           mjswd2=0.33            	mjsws=0.33          sjs=0             
+ sjsws=0               sjswgs=0               	mjs2=0.125          mjd2=0.125         
//**********************************************************
//                      capacitance                        *
//**********************************************************
//=====================capacitance=========================*
+ cgsp=0               	cgdp=0               	cdsp=0              cfs=2.56e-011     
+ cfd=2.65e-011       	covs=2.5e-011       	covd=2.5e-011       cgsl=0             
+ ckappas=0.6           cgbo=0               	cgbl=0             
//**********************************************************
//                      temperature                        *
//**********************************************************
+ tbgasub=0.000702      
//=======================process============================*
+ tbgbsub=1108          kt1=0             
//=========================vth==============================*
+ kt1l=0               	ute=0             
//=======================mobility===========================*
+ utl=-0.0015         	ua1=0.001032        	ud1=0               ucste=-0.00478      
+ at=-0.00156      
//=========================vsat=============================*
+ ptwgt=0.004           tmexp=0               	prt=0.001         
//=======================resistor===========================*
+ iit=-0.5          
//=========================isub=============================*
+ tii=0               	tgidl=-0.0003       
//=========================gidl=============================*
+ igt=2.5           
//=====================gatecurrent==========================*
//=======================junction===========================*
+ tcj=0               	tcjsw=0               	tcjswg=0           tpb=0             
+ tpbsw=0               tpbswg=0              	xtis=3            xtid=3             
+ xtss=0.02            	xtssws=0.02           	xtsswgs=0.02      tnjts=0             
+ tnjtssw=0             tnjtsswg=0             
//**********************************************************
//                         noise                           *
//**********************************************************
+ ef=1             
//=========================1/f==============================*
+ lintnoi=0            	em=41000000        		noia=6.25e+039       noib=3.125e+024    
+ noic=87500000       	ntnoi=1                  
//**********************************************************
//**$#$#$#$#$#$$##$#$#$#$#$#$#$##$#$#$$#$#$#$#$#$#$#$#$#$#$#
//**********************************************************

parameters				vddp=1*vdd				
+						ndvtshift=0
+						pdvtshift=0
+ 						fin_height=26n 
+ 						fin_width=12n
+						lg=20n
//+						fin_h=26
//+						fin_w=12
//+						lentg=20

statistics
{             
	process
	{
//		tox=1.35e-09 m
//		vary ttox 		dist=gauss std=0.135
		vary ndvtshift 	dist=gauss std=0.0666
		vary pdvtshift 	dist=gauss std=0.0666
//		vary fin_h 		dist=gauss std=.26
//		vary fin_w  	dist=gauss std=.12
//		vary lentg      dist=gauss std=.2
//		vary ttox dist=unif N=3*0.42 percent=no
//		vary ttox dist=lnorm std=10 percent=yes	
	}
	mismatch
	{
// 		tox=1.3e-09 m
//		vary ttox dist=gauss std=0.0135
		vary ndvtshift 	dist=gauss std=0.0333
		vary pdvtshift 	dist=gauss std=0.0333
//		vary ttox dist=unif N=3*0.042 percent=no
//		vary ttox dist=lnorm std=1 percent=yes	
	}
//	truncate tr=6.0		// limiting to 6 sigma
}


